US03952006
[d] 32.1 g of 5-o-chlorophenyl-7-ethyl-1,2-dihydro-3H-thieno[2,3-e][1,4] diazepine-2-thione obtained in the above example [a] is suspended in 200 ml of ethanol, and to the suspension is added 8 g of hydrazine hydrate. Several minutes stirring turns the suspension into a homogeneous, red, transparent solution. Then crystals begin to precipitate. After stirring at room temperature for 2 hours and subsequent ice-cooling, the crystals are collected by suction filtration and washed well with methanol to give 28.6 g of almost pure 2-hydrazino-5-o-chlorophenyl-7-ethyl-3H-thieno[2,3-e][1,4]diazepine as yellowish crystals. The crystals, when recrystallized from a mixture of ethanol and diemethylformamide, show a melting point of 214° - 216°C (decomposition).

reactant | 5-o-chlorophenyl-7-ethyl-1,2-dihydro-3H-thieno[2,3-e][1,4] diazepine-2-thione | 32.1 g | ClC1=C(C=CC=C1)C=1C2=C(NC(CN1)=S)SC(=C2)CC | C15H13ClN2S2
reactant | hydrazine hydrate | 8 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-hydrazino-5-o-chlorophenyl-7-ethyl-3H-thieno[2,3-e][1,4]diazepine | N(N)C=1CN=C(C2=C(N1)SC(=C2)CC)C2=C(C=CC=C2)Cl | C15H15ClN4S
